US05459243
4-Chloro-1-(2-O-methyl-3,5-di-O-benzoyl-β-D-ribofuranosyl)-pyrimidin-2-one.
4-Chloro-2-trimethylsilylethoxy-pyrimidine (3.5 g, 15.2 mmole) and 2-O-methyl-1,3,5-tri-O-benzoyl-α-D-ribose (7.0 g, 15.2 mmole) were dissolved in acetonitrile (100 ml). This solution was treated with trimethylsilyl trifluoromethanesulfonate (2.8 g, 15.2 mmole) and stirred for 1.5 hours. The reaction mixture was concentrated to an oil and redissolved in 300 ml CH2Cl2. The CH2Cl2 solution was washed with cold concentrated sodium bicarbonate, dried over magnesium sulfate, filtered, and evaporated to an oil. The oil was coevaporated with acetonitrile and dried to a brown foam to give 6.70 g (91%) crude product.

reactant | 4-Chloro-2-trimethylsilylethoxy-pyrimidine | 15.2 mmole, 3.5 g | ClC1=NC(=NC=C1)OCC[Si](C)(C)C | C9H15ClN2OSi
reactant | 2-O-methyl-1,3,5-tri-O-benzoyl-α-D-ribose | 15.2 mmole, 7.0 g | CO[C@H]1[C@@H](OC(C2=CC=CC=C2)=O)O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O | C27H24O8
reactant | trimethylsilyl trifluoromethanesulfonate | 15.2 mmole, 2.8 g | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 4-Chloro-1-(2-O-methyl-3,5-di-O-benzoyl-β-D-ribofuranosyl)-pyrimidin-2-one | 6.70 g, 91% | ClC1=NC(N(C=C1)[C@H]1[C@H](OC)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O)=O | C24H21ClN2O7
